*Model 2 3D PFET DC Simulation
.model pmostabmod table3d (offset=0.0 gain=1 order=3 file="0negs2modelp.txt")
*** NETLIST DESC ***
amos1 %vd(nd 0) %vd(ng 0) %vd(ns 0) %id(nd 0) pmostabmod
*R1 in ng 50
Vout nd 0 40
Vss ns 0 30
Vin ng 0 21
*** SIM Commands ***
.dc Vin -20 39.96 0.01 Vout 0 20 10
.end
