*Model 3 PFET DC Simulation
.model pmostabmod table3d (offset=0.0 gain=1 order=3 file="0negs3modeln.txt")
*** NETLIST DESC ***
amos1 %vd(nd 0) %vd(ng 0) %vd(ns 0) %id(nd 0) pmostabmod
Vout nd 0 20
Vss ns 0 10
Vin ng 0 13
*** SIM Commands ***
.dc Vin -10 19.96 0.01 Vout 0 15 5
.end
